US08686024B2
(2) Synthesis of 1-(2-pyridylmethyl)indolin-5-yl n-hexylcarbamate
To a solution of 1-(2-pyridylmethyl)indolin-5-ol (20 mg, 88 μmol) in 0.5 mL of diethyl ether was added a piece of sodium (1 mg to 10 mg) at room temperature. After the reaction mixture was stirred at the same temperature for 2 min, n-hexylisocyanate (15 μL, 0.11 mmol, 1.2 equivalent) was added with additional stirring for 5 min to 10 min. After removal of sodium, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20 to 30/70) to obtain the title compound (21.2 mg, 68%) as a slightly brown solid.

reactant | 1-(2-pyridylmethyl)indolin-5-ol | 88 μmol, 20 mg | N1=C(C=CC=C1)CN1CCC2=CC(=CC=C12)O | C14H14N2O
reactant | sodium | 1 mg to 10 mg | [Na] | Na
reactant | n-hexylisocyanate | 0.11 mmol, 15 μL, 1.2 equivalent | C(CCCCC)N=C=O | C7H13NO
solvent | diethyl ether | 0.5 mL | C(C)OCC | C4H10O
product | 1-(2-pyridylmethyl)indolin-5-yl n-hexylcarbamate | 21.2 mg, 68% | C(CCCCC)NC(OC=1C=C2CCN(C2=CC1)CC1=NC=CC=C1)=O | C21H27N3O2
